US04824958
4-Bromo-3-(1-methylethoxy)-N-1H-tetrazol-5-yl-2-thiophenecarboxamide.
1,1'-Carbonyldiimidazole (2.2 g, 14 mmoles) is added to a solution of 4-bromo-3-(1-methylethoxy)-2-thiophenecarboxylic acid (3.5 g, 13 mmoles) in tetrahydrofuran (50 mL) under argon. The mixture is stirred and heated under reflux for 1.5 hours. 5-Aminotetrazole (1.1 g, 13 mmoles) is added, and heating under reflux continued for 2.5 additional hours. The mixture is then stirred into ice water (200 mL) and acidified with concentrated HCl. After 1 hour the precipitate is filtered off, rinsed with water and dried to afford the product (4.1 g); mp 193°-194° C.

reactant | 1,1'-Carbonyldiimidazole | 14 mmoles, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-bromo-3-(1-methylethoxy)-2-thiophenecarboxylic acid | 13 mmoles, 3.5 g | BrC=1C(=C(SC1)C(=O)O)OC(C)C | C8H9BrO3S
reactant | 5-Aminotetrazole | 13 mmoles, 1.1 g | NC1=NN=NN1 | CH3N5
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-Bromo-3-(1-methylethoxy)-N-1H-tetrazol-5-yl-2-thiophenecarboxamide | 4.1 g | BrC=1C(=C(SC1)C(=O)NC1=NN=NN1)OC(C)C | C9H10BrN5O2S
